US04394159
2-Chloro-3-phenylthio-6-nitro-N-methylaniline
An amount of 2.9 gm of sodium thiophenolate was added to a solution of 4.4 gm (0.02 mol) of 2,3-dichloro-6-nitro-N-methylaniline dissolved in 50 ml of acetonitrile. The mixture was refluxed for half an hour and subsequently evaporated, and the residue was taken up with chloroform and water. The chloroform layer was separated, dried, and evaporated. Six grams of brown oil, which crystallized with isopropanol, were obtained. The yield from the crystallization was 4 gm of product (67.5% of theory) in the form of yellow crystals, m.p. 79° C.

reactant | sodium thiophenolate | 2.9 gm | C1(=CC=CC=C1)[S-].[Na+]
reactant | 2,3-dichloro-6-nitro-N-methylaniline | 0.02 mol, 4.4 gm | ClC1=C(NC)C(=CC=C1Cl)[N+](=O)[O-] | C7H6Cl2N2O2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-Chloro-3-phenylthio-6-nitro-N-methylaniline | ClC1=C(NC)C(=CC=C1SC1=CC=CC=C1)[N+](=O)[O-] | C13H11ClN2O2S
